US05081131
N-Benz(cd)indol-2-yl-N-(4-(1H-imidazol-1-yl)butyl)heptanamide
The subject compound was prepared by the method of Example 45, utilizing 4.0 grams of N-(4-(1H-imidazol-1-yl)butyl)benz(cd)indol-2-amine (the free base of the compound of Example 18), 3.7 ml of n-heptanoic anhydride, and 50 ml of the dichloromethane. The crude product was recrystallized from diethylether to yield 2.2 grams of the title compound; mp 82° C.-84° C.

reactant | N-(4-(1H-imidazol-1-yl)butyl)benz(cd)indol-2-amine | 4.0 grams | N1(C=NC=C1)CCCCNC1=NC2=CC=CC=3C2=C1C=CC3 | C18H18N4
reactant | n-heptanoic anhydride | 3.7 ml | C(CCCCCC)(=O)OC(CCCCCC)=O | C14H26O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-Benz(cd)indol-2-yl-N-(4-(1H-imidazol-1-yl)butyl)heptanamide | 2.2 grams | N1=C(C2=C3C(C=CC=C13)=CC=C2)N(C(CCCCCC)=O)CCCCN2C=NC=C2 | C25H30N4O
